US03978057
A solution of 4 g of 4-amino-6-chloro-3-hydrazinopyridazine in 240 ml. of methanol and 60 ml. of 0.5 N sodium hydroxide in methanol are charged into a Paar shaker. To this solutionn, 2 g. of 10% palladium on carbon catalyst is added. The Paar shaker is charged at room temperature with hydrogen to an initial pressure of 50 psi and shaken. After about 4 hours, the reaction mixture is filtered, the solvent evaporated, and the residue extracted with chloroform. The chloroform solution is evaporated to dryness, and the 4-amino-3-hydrazino pyridazine obtained is dissolved in methanol. Hydrogen chloride gas is bubbled in, and the 4-amino-3-hydrazinopyridazine dihydrochloride (m.p. 281°-283°C.) which precipitates is separated by filtration.

reactant | 4-amino-6-chloro-3-hydrazinopyridazine | 4 g | NC1=C(N=NC(=C1)Cl)NN | C4H6ClN5
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-amino-3-hydrazino pyridazine | NC1=C(N=NC=C1)NN | C4H7N5
